US09403847B2
Step F: 2-Acetyl-3-(3-fluorophenyl)imidazo[1,2-a]pyridine-8-carbonitrile
A solution of 2-acetyl-3-(3-fluorophenyl)imidazo[1,2-a]pyridine-8-carboxamide (0.24 g, 0.81 mmol) in dichloromethane (12 mL) was treated with triethylamine (0.34 mL, 2.4 mmol) and cooled to −15° C. The reaction mixture was treated with trichloroacetyl chloride (0.18 mL, 1.6 mmol) dropwise and stirred between −15° C. to −10° C. for 1 h. The reaction mixture was diluted with dichloromethane (100 mL) and washed with water (2×50 mL) and brine (50 mL), dried with sodium sulfate, filtered, and concentrated to give the desired product (0.23 g, quantitative). This material was used without further purification. LCMS for C16H11FN3O (M+H)+: m/z=280.1.

reactant | 2-acetyl-3-(3-fluorophenyl)imidazo[1,2-a]pyridine-8-carboxamide | 0.81 mmol, 0.24 g | C(C)(=O)C=1N=C2N(C=CC=C2C(=O)N)C1C1=CC(=CC=C1)F | C16H12FN3O2
reactant | triethylamine | 2.4 mmol, 0.34 mL | C(C)N(CC)CC | C6H15N
reactant | trichloroacetyl chloride | 1.6 mmol, 0.18 mL | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-Acetyl-3-(3-fluorophenyl)imidazo[1,2-a]pyridine-8-carbonitrile | 0.23 g | C(C)(=O)C=1N=C2N(C=CC=C2C#N)C1C1=CC(=CC=C1)F | C16H10FN3O
